US07135480B2
3-Cyano-1-(4-dimethylamino-benzoyl)-pyrrolo[1,2-a]quinoline
A solution of 3-cyano-1-[4-fluoro-benzoyl]-pyrrolo[1,2-a]quinoline (56 mg, 0.18 mmol) and dimethylhydrazine (118 mg, 1.96 mmol) in DMF (5 mL) was refluxed for 24 h. It was diluted with water (50 mL) and extracted with EtOAc (3×20 mL). The combined organic layers were dried, concentrated and the residue was purified by column chromatography (EtOAc/Hexane 6:1) to give 15 mg (25%) of the title compound. 1H NMR (CDCl3): 8.11–8.05–7.95 (m, 3H), 7.82–7.78 (m, 2H), 7.63–7.42 (m, 4H), 7.31 (s, 1H), 6.75 (d, J=9.30 Hz, 2H), 3.14 (s, 6H). MS, 340 (M+1).

reactant | 3-cyano-1-[4-fluoro-benzoyl]-pyrrolo[1,2-a]quinoline | 0.18 mmol, 56 mg | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)F)=O | C20H11FN2O
reactant | dimethylhydrazine | 1.96 mmol, 118 mg | CNNC | C2H8N2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-Cyano-1-(4-dimethylamino-benzoyl)-pyrrolo[1,2-a]quinoline | 15 mg, 25% | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)N(C)C)=O | C22H17N3O
